### ISSUE TITLE
Tractatus: add concrete examples and decidable evaluation

### ISSUE THREAD

**Issue by rjwalters** [rjwalters/lean-genius#10724]
## Context

The current TractatusOntology.lean is entirely abstract — no specific proposition, world, or truth-value is ever constructed. For a gallery entry aimed at readers learning Lean, this makes the formalization hard to ground. Adding worked examples and a decidable (Bool-valued) evaluator would significantly improve the pedagogical quality.

### 1. Concrete example section

```lean
-- A toy universe: two states of affairs
inductive TwoFacts where | rain | snow

-- A world where it rains but doesn't snow
def rainyWorld : World TwoFacts
  | .rain => True
  | .snow => False

-- An elementary proposition: "it rains"
def itRains : Proposition TwoFacts := .elementary .rain
def itSnows : Proposition TwoFacts := .elementary .snow

-- Evaluate: "it rains" is true in rainyWorld
example : itRains.eval rainyWorld = True := rfl

-- "it rains or it snows" is true (because it rains)
example : (Proposition.disj itRains itSnows).eval rainyWorld := ...

-- "it rains and it snows" is false
example : ¬ (Proposition.conj itRains itSnows).eval rainyWorld := ...
```

### 2. Bool-valued evaluator

```lean
-- Decidable evaluation for finite/decidable worlds
def Proposition.evalBool (p : Proposition S) (w : S → Bool) : Bool :=
  match p with
  | .elementary s => w s
  | .neg q        => !(q.evalBool w)
  | .conj q r     => q.evalBool w && r.evalBool w

-- Correctness: evalBool agrees with eval
theorem evalBool_correct ...

-- Now we can compute truth tables!
#eval itRains.evalBool (fun | .rain => true | .snow => false)  -- true
```

### 3. Truth table generation (stretch goal)

```lean
-- For a finite type of states, enumerate all worlds and compute truth values
-- This gives the truth table for any proposition over a finite base
def truthTable [Fintype S] [DecidableEq S] (p : Proposition S) : 
    List (List Bool × Bool) := ...
```

## Why this matters

- Gallery readers can see propositions *compute*, not just exist abstractly
- The `#eval` examples provide immediate feedback for someone working through the code
- Truth tables connect the formalization to something every logic student recognizes
- The `evalBool`/`eval` correctness theorem is a nice soundness result

## Acceptance criteria

- [ ] At least one concrete example with a named world, named propositions, and evaluated results
- [ ] `evalBool` function defined and proved correct relative to `eval`
- [ ] At least one `#eval` or `#check` example in the file
- [ ] Annotations explain the examples and their connection to Tractatus propositions
- [ ] Existing theorems unchanged

## Pedagogical note

The examples should be philosophically apt, not just technically correct. "It rains" and "it snows" work but are prosaic. Consider using Wittgenstein's own examples where he gives them, or examples from the history of logic (Russell's "the present King of France is bald" etc.).

**Comment by rjwalters** [comment]
## Curator Enhancement

Curating this issue per user request. Below is technical context, implementation guidance, acceptance criteria, and a test plan for a Builder to implement.

---

## Technical Context and Root Cause Analysis

`TractatusOntology.lean` (394 lines) uses `Prop`-valued semantics throughout. The `eval` function returns `Prop`, worlds are `Sachverhalt → Prop`, and all 13 theorems reason at the `Prop` level. This is mathematically clean but computationally opaque: Lean's kernel can type-check these proofs, but `#eval` cannot run them — `Prop` is not a computable type.

To make the formalization interactive (runnable with `#eval`), a parallel `Bool`-valued evaluator is needed. This is the core technical addition: `Proposition.evalBool` taking `S → Bool` (a computable world representation) and returning `Bool`. The `Prop`-valued machinery is completely preserved; `evalBool` is an addendum.

The relationship between `evalBool` and `eval` requires a bridge theorem (`evalBool_correct`) asserting that `evalBool w_bool = true ↔ eval (fun s => w_bool s = true) w_prop`. The existing `truth_functional_compositionality` theorem (lines 218–225) is the natural predecessor — the correctness proof will proceed by the same structural induction on `Proposition S`.

The concrete example section requires defining a concrete `Sachverhalt` type. The issue proposes `TwoFacts` as an `inductive` with `| rain | snow`. This is a good choice: it is `Fintype`, `DecidableEq`, and `Repr`-able, so both `#eval` and structural proofs work smoothly.

The truth-table stretch goal requires `[Fintype S]` and `[DecidableEq S]` instances. For `TwoFacts` these are automatically derived. The table generation would produce a `List (S → Bool) × Bool` or similar, one row per world.

---

## Implementation Approach

### Step 1: Add concrete example section (new SECTION 10)

Insert after line 364 (before the limits section):

```lean
-- ═══════════════════════════════════════════════════════════════
-- SECTION 10: Concrete Examples
-- ═══════════════════════════════════════════════════════════════

/- A toy Sachverhalt: two states of affairs, rain and snow. -/
inductive TwoFacts where | rain | snow
  deriving DecidableEq, Repr, Fintype

/- A world where it rains but doesn't snow. -/
def rainyWorld : World TwoFacts
  | .rain => True
  | .snow => False

/- Named propositions. -/
def itRains : Proposition TwoFacts := .elementary .rain
def itSnows : Proposition TwoFacts := .elementary .snow

/- Evaluation examples (Prop-valued). -/
example : itRains.eval rainyWorld := trivial
example : ¬ itSnows.eval rainyWorld := id
example : (Proposition.disj itRains itSnows).eval rainyWorld := by
  simp [Proposition.disj, Proposition.eval, rainyWorld, itRains, itSnows]
example : ¬ (Proposition.conj itRains itSnows).eval rainyWorld := by
  simp [Proposition.eval, rainyWorld, itRains, itSnows]
```

Regarding philosophically apt examples: Wittgenstein's own recurring examples in the *Tractatus* involve colour incompatibility (`aRb`/`bRa` relational propositions) and logical geography, not named prosaic facts. "Rain" and "snow" are perfectly readable and carry a mild weather-as-world-state metaphor that readers will grasp instantly. An alternative is to use Wittgenstein's actual 1922 example-world from the *Notebooks* — a point on a coloured plane — but that requires more infrastructure. Russell's "King of France" example is better reserved for descriptions theory, not truth-functional logic. Recommendation: keep `rain`/`snow` as proposed.

### Step 2: Add Bool-valued evaluator (end of `namespace Proposition`)

After line 113 (end of `namespace Proposition`), either reopen the namespace or add as a free function:

```lean
/-- Bool-valued evaluator for decidable computation.
    Takes a `Bool`-valued world assignment (computable) instead of `Prop`-valued. -/
def Proposition.evalBool (p : Proposition S) (w : S → Bool) : Bool :=
  match p with
  | .elementary s => w s
  | .neg q        => !(q.evalBool w)
  | .conj q r     => q.evalBool w && r.evalBool w

/-- evalBool agrees with eval when the world is derived from the Bool assignment. -/
theorem Proposition.evalBool_correct (p : Proposition S) (w : S → Bool) :
    (p.evalBool w = true) ↔ p.eval (fun s => w s = true) := by
  induction p with
  | elementary s => simp [evalBool, eval]
  | neg q ih     => simp [evalBool, eval, ih]
  | conj q r ihq ihr => simp [evalBool, eval, ihq, ihr]
```

### Step 3: Add `#eval` examples

After the `evalBool` definition and correctness theorem:

```lean
-- Compute truth values directly
#eval itRains.evalBool   (fun | .rain => true  | .snow => false)  -- true
#eval itSnows.evalBool   (fun | .rain => true  | .snow => false)  -- false
#eval (Proposition.disj itRains itSnows).evalBool
      (fun | .rain => true | .snow => false)                       -- true
#eval (Proposition.conj itRains itSnows).evalBool
      (fun | .rain => true | .snow => false)                       -- false
```

### Step 4 (Stretch): Truth table generation

```lean
/-- Enumerate all Bool worlds for a Fintype S and return the truth table. -/
def Proposition.truthTable [Fintype S] [DecidableEq S]
    (p : Proposition S) : List (List Bool × Bool) :=
  -- One entry per world (function S → Bool, enumerated via Fintype)
  -- Requires List.finRange or similar Mathlib machinery
  sorry
```

This is explicitly marked stretch in the issue and can remain sorry or be omitted from the initial implementation.

### Step 5: Update annotations and meta

- Add a new annotation in `annotations.json` for the new SECTION 10 (lines to be determined after insertion)
- Update `meta.json`:
  - `lineCount`: currently 394, will increase by ~30-50 lines
  - `sections`: add new section `{ "id": "concrete-examples", "title": "Concrete Examples", ... }`
  - `leanFile.theoremCount`: add 1 for `evalBool_correct` plus the unnamed `example` proofs
  - `leanFile.definitionCount`: add entries for `TwoFacts`, `rainyWorld`, `itRains`, `itSnows`, `Proposition.evalBool`, optionally `truthTable`
  - `meta.status`: should remain `"axiomatized"` (still has 1 sorry for `proposition_seven`)

---

## Acceptance Criteria

- [ ] `inductive TwoFacts` defined with `deriving DecidableEq, Repr, Fintype`
- [ ] `rainyWorld : World TwoFacts` defined (rain obtains, snow does not)
- [ ] `itRains` and `itSnows` defined as named `Proposition TwoFacts`
- [ ] At least 3 `example` proofs evaluating propositions in `rainyWorld` (positive, negative, compound)
- [ ] `Proposition.evalBool` defined with `Bool`-valued matching on all three constructors
- [ ] `evalBool_correct` theorem proved by structural induction (no sorry)
- [ ] At least 3 `#eval` calls in the file producing computable output
- [ ] All existing 13 theorems and 1 sorry (`proposition_seven`) left unchanged
- [ ] `annotations.json` updated with at least one annotation covering the new section
- [ ] `meta.json` sections array updated with the new concrete-examples section (correct `startLine`/`endLine`)
- [ ] `meta.json` `lineCount`, `theoremCount`, `definitionCount` updated to reflect new content
- [ ] File compiles via `./proofs/scripts/docker-build.sh Proofs.TractatusOntology` without errors

---

## Affected Files

- `/Users/rwalters/GitHub/lean-genius/proofs/Proofs/TractatusOntology.lean` — primary file: add SECTION 10 (concrete examples), `evalBool` function, `evalBool_correct` theorem, `#eval` calls
- `/Users/rwalters/GitHub/lean-genius/src/data/proofs/tractatus-ontology/meta.json` — update `lineCount`, `sections`, `leanFile.theoremCount`, `leanFile.definitionCount`
- `/Users/rwalters/GitHub/lean-genius/src/data/proofs/tractatus-ontology/annotations.json` — add annotation for the new concrete-examples section (and `evalBool` if desired)

The `index.ts` and `tacticStates.json` files do not need modification.

---

## Implementation Notes

1. **Namespace placement**: `evalBool` must be in or accessible from `namespace Tractatus`. It does not need to reopen `namespace Proposition` — it can be defined as `def Proposition.evalBool` at the top level of `namespace Tractatus`.

2. **`deriving` clause**: `TwoFacts` needs `Fintype` for the stretch goal and `Repr` for `#eval` output. `DecidableEq` is needed for the `DecidableEq S` instance in the truth table. Add all three upfront.

3. **Line ordering**: The new SECTION 10 should be inserted between SECTION 9 (theorems, ending ~line 364) and the closing limits section (starting ~line 366). The limits section (`proposition_seven`) should remain last, preserving the philosophical narrative.

4. **`evalBool` vs `eval` bridge**: The `evalBool_correct` theorem bridges `Bool`-valued computation to `Prop`-valued semantics. The `simp` tactic with `Bool.eq_true_iff` or similar may need to be invoked; alternatively `decide` will not work (the type `S` is abstract). The induction proof is straightforward — the `neg` case uses `Bool.not_eq_true_iff_ne_true` or `decide`, and `simp [Bool.and_eq_true]` handles `conj`.

5. **`#eval` placement**: Place `#eval` calls after the `evalBool` definition (not in the middle of the theorem section). They can appear in SECTION 10 or just after `evalBool_correct`.

---

## Test Plan

- [ ] Manual build: run `./proofs/scripts/docker-build.sh Proofs.TractatusOntology` — must produce zero errors and zero sorry warnings except for `proposition_seven`
- [ ] Verify `#eval itRains.evalBool (fun | .rain => true | .snow => false)` outputs `true` in the Lean infoview / docker output
- [ ] Verify `#eval (Proposition.conj itRains itSnows).evalBool (fun | .rain => true | .snow => false)` outputs `false`
- [ ] Verify `evalBool_correct` closes without sorry (check sorry count stays at 1)
- [ ] Run `pnpm build` to confirm gallery (`meta.json`, `annotations.json`) renders without TypeScript errors
- [ ] Edge cases: verify a world where both rain and snow obtain satisfies `conj itRains itSnows`, and a world where neither obtains satisfies neither elementary proposition
